US08207347B2
1-Amino-2,4-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester
A mixture of methyl isodehydroacetate (24.0 g, 132 mmol) and hydrazine monohydrochloride (9.6 g, 140 mmol) in ethanol (30 mL) was heated under microwave irradiation at 160° C. for 2 hours. It was filtered and the obtained solution was evaporated. The oil was partitioned between sat. aq. Na2CO3 and ethyl acetate (3×250 mL). The combined organic solution was washed with brine, dried (Na2SO4) and evaporated. The title product was purified by flash chromatography (yield 2.8 g, 10%). LC-MS (m/z) 197.0 (MH+); tR=0.57 (method C). 1H NMR (600 MHz, CDCl3): 2.20 (s, 3H, Me), 2.52 (s, 3H, Me), 3.88 (s, 3H, OMe), 5.16 (s, 2H, NH2), 6.35 (s, 1H, C5-H).

reactant | methyl isodehydroacetate | 132 mmol, 24.0 g | CC1=CC(=O)OC(=C1C(=O)OC)C | C9H10O4
reactant | hydrazine monohydrochloride | 140 mmol, 9.6 g | Cl.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-Amino-2,4-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(N(C(C=C1C)=O)N)C | C9H12N2O3
